US08058432B2
Step 2: Synthesis of Nα-(2,6-dichlorobenzoyl)-4-{6-dimethylamino-quinazoline-2,4-[1H,3H]-dion-3-yl}-L-phenylalanine methyl ester
There was suspended, in 480 mL of acetonitrile, 47.1 g of 4-{2-amino-5-di-methylamino-benzoylamino}-Nα-(2,6-dichlorobenzoyl)-L-phenylalanine methyl ester synthesized in the foregoing step 1, then 15.9 g of 1,1′-carbonyl-diimidazole (CDI) was added to the suspension and then the mixture was heated at a temperature ranging from 55 to 60° C. for 2.5 hours with stirring. After the completion of the reaction, the mixture was cooled to 5° C. and the resulting crystals were filtered off to thus give 35.6 g of primary crystals. The filtrate and the wash liquid were concentrated to half, then 200 mL of water was added thereto to thus separate out crystals, the resulting slurry was filtered and the resulting crystals were dried to thus give 6.35 g of secondary crystals. The physical properties of the resulting compound were found to be in good agreement with those observed for the same compound prepared in the foregoing synthesis Example.

reactant | 4-{2-amino-5-di-methylamino-benzoylamino}-Nα-(2,6-dichlorobenzoyl)-L-phenylalanine methyl ester | 47.1 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)N(C)C)N)=O)=O | C26H26Cl2N4O4
reactant | 1,1′-carbonyl-diimidazole | 15.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 480 mL | C(C)#N | C2H3N
product | Nα-(2,6-dichlorobenzoyl)-4-{6-dimethylamino-quinazoline-2,4-[1H,3H]-dion-3-yl}-L-phenylalanine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)N1C(NC2=CC=C(C=C2C1=O)N(C)C)=O)=O | C27H24Cl2N4O5
